US05846703
Desethyl-N-acetylprocainamide was prepared by dissolving 1.0 g of p-acetamidobenzoic acid and 0.7 g N-hydroxysuccinimide in 20 ml pyridine. To this solution was added 1.4 g of N,N'-dicyclohexylcarbodiimide. The reaction mixture was placed at 4° C. for 18 hours, at which time the crystals were removed by filtration. The filtration was brought to room temperature and with stirring, 0.51 g N-ethylethylenediamine ethylethylenediamine was added. Stirring continued for 3 hours, the solution was cooled to 4° C. and allowed to react for an addition 24 hours at 4° C. The second crop of crystals was removed by filtration, dissolved in 25 ml of distilled water. The pH was adjusted to 10 with sodium hydroxide to form a white precipitate of desethyl-N-acetylprocainamide. The resultant precipitate was dried in vacuo and stored at -20° C. in a desiccator.

reactant | p-acetamidobenzoic acid | 1.0 g | C(C)(=O)NC1=CC=C(C(=O)O)C=C1 | C9H9NO3
reactant | N-hydroxysuccinimide | 0.7 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | N,N'-dicyclohexylcarbodiimide | 1.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | desethyl-N-acetylprocainamide | CCNCCNC(=O)C1=CC=C(C=C1)NC(=O)C | C13H19N3O2
